### ISSUE TITLE
Improve error handling in our tactics

### ISSUE THREAD

**Issue by piohei** [reilabs/lampe#92]
Code:

```
theorem t1 {lp}: STHoare lp env (⟦⟧)
    (TestDep.«0.0.0».Extracted.GitDep.«0.0.0».hello.call h![] h![])
      fun output => (String.mk output.toList) = hello2 := by
      -- fun output => output = (hello2, by rfl) := by
  enter_decl
  simp only [TestDep.«0.0.0».Extracted.GitDep.«0.0.0».hello]
  steps []
  subst_vars
  unfold hello2
  rfl
```

Notice that `env` here is implicitly defined and is empty env.

Lean output when function not found
```
tactic 'rfl' failed, the left-hand side
  List.find?
    (fun x =>
      match x with
      | { name := n, «fn» := «fn» } => decide (n = Extracted.GitDep.«0.0.0».hello.name))
    env.functions
is not definitionally equal to the right-hand side
  some { name := Extracted.GitDep.«0.0.0».hello.name, «fn» := ?m.876 }
env : Env
lp : Lampe.Prime
⊢ List.find?
    (fun x =>
      match x with
      | { name := n, «fn» := «fn» } => decide (n = Extracted.GitDep.«0.0.0».hello.name))
    env.functions =
  some { name := Extracted.GitDep.«0.0.0».hello.name, «fn» := ?m.876 }
```

**Comment by iamrecursion** [comment]
This is actually a broader usability issue with many of the Lampe tactics. The one above is _one_ of the ones that fails quietly, but there are more. All of these should be updated to provide accurate failure reporting.
